US09315467B2
Part B. A solution of 3-bromo-5-(4-isopropyl-phenyl)-pyridine (300 mg, 1.1 mmol) and 3-carboethoxybenzeneboronic acid (180 mg, 1.1 mmol) in ethanol-toluene-water (10 mL/5 mL/3 mL) is treated with sodium carbonate (345 mg), degassed twice and treated with a catalytic quantity of tetrakis(triphenylphosphine)palladium. The mixture is heated to 80° C. with stirring until the starting material is consumed as determined by TLC. Then, the mixture is cooled, filtered and evaporated, and the residual material is partitioned between water and ethyl acetate. The organic phase is washed with brine, dried over sodium sulfate, filtered and evaporated, and the residue is separated by column chromatography to afford ethyl 3-[5-(4-isopropyl-phenyl)-pyridin-3-yl]-benzoate (252 mg, 79%).

reactant | 3-bromo-5-(4-isopropyl-phenyl)-pyridine | 1.1 mmol, 300 mg | BrC=1C=NC=C(C1)C1=CC=C(C=C1)C(C)C | C14H14BrN
reactant | 3-carboethoxybenzeneboronic acid | 1.1 mmol, 180 mg | C(=O)(OCC)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | sodium carbonate | 345 mg | C([O-])([O-])=O.[Na+].[Na+]
product | ethyl 3-[5-(4-isopropyl-phenyl)-pyridin-3-yl]-benzoate | 252 mg, 79% | C(C)(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C=1C=C(C(=O)OCC)C=CC1 | C23H23NO2
